US07994189B2
a) 3-(2-Bromo-6-ethoxy-4-formylphenoxymethyl)-benzoic acid methyl ester
3-Bromomethylbenzoic acid methyl ester (0.77 g), K2CO3 (1.0 g) and a catalytic amount of n-Bu4NI were added to a solution of 5-bromo-3-ethoxy-4-hydroxybenzaldehyde (0.75 g) in 10 mL DMF and the reaction mixture was stirred at 70° C. for 1 h. A solution of 3% citric acid in water was added and the reaction mixture was extracted with ethyl acetate. The organic phases were washed with water and brine, dried over MgSO4 and concentrated. The title compound was obtained after flash column chromatography (silica gel, heptane/ethyl acetate (1/4, v/v), Rf=0.25).

reactant | 3-Bromomethylbenzoic acid methyl ester | 0.77 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | K2CO3 | 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-bromo-3-ethoxy-4-hydroxybenzaldehyde | 0.75 g | BrC=1C(=C(C=C(C=O)C1)OCC)O | C9H9BrO3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | n-Bu4NI | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(2-Bromo-6-ethoxy-4-formylphenoxymethyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)COC1=C(C=C(C=C1OCC)C=O)Br)=O | C18H17BrO5
